US08431573B2
2-(3-Fluorobenzyl)-6-oxo-4-(1-piperidinyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.36 mmol) of 2-(3-fluorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 309 mg (3.63 mmol) of piperidine to give 40 mg (35% of theory) of the title compound.

reactant | 2-(3-fluorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.36 mmol, 100 mg | FC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10FN3OS
reactant | piperidine | 3.63 mmol, 309 mg | N1CCCCC1 | C5H11N
product | 2-(3-Fluorobenzyl)-6-oxo-4-(1-piperidinyl)-1,6-dihydropyrimidine-5-carbonitrile | FC=1C=C(CC=2NC(C(=C(N2)N2CCCCC2)C#N)=O)C=CC1 | C17H17FN4O
